US04545995
trans-4-(4'-Chlorophenyl)-3-buten-1-ol
To a suspension of triphenyl phosphine (2.1 g, 8.0 mmole) in 300 ml of triethylamine and 30 ml of acetonitrile under nitrogen is added successively palladium (II) acetate (0.45 g, 2.0 mmole), 1-bromo-4-chlorobenzene (19.1 g, 110 mmole) and 3-buten-1-ol (7.21 g, 100 mmole) in a pressure tube. The tube is sealed and heated in an oil bath to 100° C. for 24 hr. The tube is opened under nitrogen, charged with additional palladium (II) acetate, resealed and heated 20 hr longer at 100°-120° C. The mixture is cooled, vented to nitrogen and partitioned between 300 ml of 2N hydrochloric acid and ether. The layers are separated and the aqueous layer is extracted with two additional volumes of ether. The combined ether extracts are washed with 2×100 ml portions of 2N hydrochloric acid and then dried over sodium sulfate. The filtered ether extract is concentrated under vacuum to give 12.7 g of crude product which is purified by chromatography on silica gel using toluene eluent. There is obtained 9.5 g of the title compound. Rf =0.77 (silica gel, toluene).

reactant | triphenyl phosphine | 8.0 mmole, 2.1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1-bromo-4-chlorobenzene | 110 mmole, 19.1 g | BrC1=CC=C(C=C1)Cl | C6H4BrCl
reactant | 3-buten-1-ol | 100 mmole, 7.21 g | C(CC=C)O | C4H8O
solvent | triethylamine | 300 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
catalyst | palladium (II) acetate | 2.0 mmole, 0.45 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | trans-4-(4'-Chlorophenyl)-3-buten-1-ol | 9.5 g | ClC1=CC=C(C=C1)/C=C/CCO | C10H11ClO
